US09428693B2
Bromocyclopentane and triphenylphosphine are directly heated to 110° C. for 6 hrs in the absence of a solvent, and part of the unreacted raw material is dissolved in toluene, to obtain cyclopentyl triphenylphosphonium bromide. The resulting cyclopentyl triphenylphosphonium bromide is reacted with potassium tert-butoxide in the solvent tetrahydrofuran at 0° C. to generate the corresponding Ylide reagent, which undergoes Witting reaction with

reactant | Bromocyclopentane | BrC1CCCC1 | C5H9Br
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | cyclopentyl triphenylphosphonium bromide | [Br-].C1(CCCC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H24P.BrH/c1-4-12-20(13-5-1)24(23-18-10-11-19-23,21-14-6-2-7-15-21)22-16-8-3-9-17-22;/h1-9,12-17,23H,10-11,18-19H2;1H/q+1;/p-1
